US06838463B2
In 5 ml of tetrahydrofuran were dissolved 153 mg of 4-(2-butynyloxy)-6-(ethylamino)pyrimidine and 117 mg of 1-bromo-2-butyne, to which 40 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 7 hours. Then, 2 ml of N,N-dimethylformamide was further added, and the mixture was stirred at room temperature for 3 hours. Then, ice water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed twice with an aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to preparative silica gel thin layer chromatography to give 176 mg of 4-(2-butynyloxy)-6-(N-ethyl-N-(2-butynyl)amino)pyrimidine (the present compound (109)).

reactant | 4-(2-butynyloxy)-6-(ethylamino)pyrimidine | 153 mg | C(C#CC)OC1=NC=NC(=C1)NCC | C10H13N3O
reactant | 1-bromo-2-butyne | 117 mg | BrCC#CC | C4H5Br
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(N-ethyl-N-(2-butynyl)amino)pyrimidine | 176 mg | C(C#CC)OC1=NC=NC(=C1)N(CC#CC)CC | C14H17N3O
